US04727073
A mixture of 5-acetyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (3 g) and sodium borohydride (0.34 g) in methanol (110 ml) was stirred at room temperature for 4 hours. The reaction mixture was evaporated in vacuo and the residue was poured into a mixture of ethyl acetate and water. The separated organic layer was dried over magnesium sulfate and evaporated in vacuo. The crystalline residue was recrystallized from a mixture of n-hexane and diethyl ether to give a 5-(1-hydroxyethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (2.3 g).

reactant | 5-acetyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 3 g | C(C)(=O)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H15N3O3
reactant | sodium borohydride | 0.34 g | [BH4-].[Na+]
solvent | methanol | 110 ml | CO | CH4O
product | 5-(1-hydroxyethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 2.3 g | OC(C)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H17N3O3
